Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
tramadol
 
Attending: ___.
 
Chief Complaint:
rash
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ year old male on high dose steroids for IgA nephropathy with 
chief complaint of disseminated zoster per PCP and nephrologist. 
 
Referral requesting acyclovir and IV hydration.  
Pt reports appearance of burning rash on genitals over the 
weekend (starting ___, for which he was evaluated at ___ 
office by NP, and given Dx of herpes simplex. PAtitn reports his 
rash subseqeunetly got wrose under his genitals, and he started 
to have rash over chest ___ days ago.  
Patient reports today he was called by his PCP and nephrologist, 
who told him he instead had chicken pox and not herpes (HSV 
titer returned negative), and needed to go to ER for admit and 
IV acyclvoir drugs given his immunosuppression (corticosteroids 
x1mo) for IgA Nephropathy. Pt denies fever, cough, , N/V, body 
aches, and ROS is entirely negative save for rash. Denies 
occular symptoms. Denies dizziness, confusion, HAs. Only 
complaint = burning sensation of rash on scrotum, penis, and 
mons, and similar rash on chest without discomfort. Rash 
appeared first on genitals, since on anterior chest. Patients 
denies sick contacts, and reports he feels well o/w.  
 
In the ED, initial vitals were: 98.7 105 123/86 16 98% RA  
- Labs were significant for Cr 1.6 (baseline 1.4-1.7)  
- The patient was given 600 mg IV acyclvoir  
Vitals prior to transfer were: 98.2 99 121/92 19 98% RA  
Upon arrival to the floor, patient is in good spirits. He 
reports taking prednisone on ___. Reprots no pain or 
complaints. Is curious when he can go home. ROS negative. 
Reports he had chicken pox as a child.  
 
Past Medical History:
CKD stage III secondary to IgA Nephropathy (confirmed by bx)
Gout
HL
OSA
Left wrist knife injury during robbery requiring surgery in ___ 
___
 
___ History:
___
Family History:
Denies any family history of heart disease or cancer
 
Physical Exam:
ON ADMISSION: 
Vitals: T 98.7 BP 126/83 HR 63 RR 18 98 % RA  
General: Alert, oriented, no acute distress  
HEENT: Sclera anicteric, MMM, oropharynx clear, EOMI, PERRL  
Neck: Supple, JVP not elevated, no LAD  
CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, 
gallops  
Lungs: Clear to auscultation bilaterally, no wheezes, rales, 
rhonchi  
Abdomen: Soft, non-tender, non-distended, bowel sounds present, 
no organomegaly, no rebound or guarding  
GU: No foley  
Ext: Warm, well perfused, 2+ pulses, no clubbing, cyanosis or 
edema  
Neuro: CNII-XII intact, ___ strength upper/lower extremities, 
grossly normal sensation, 2+ reflexes bilaterally, gait 
deferred.  
skin: Vesicular rash noted on inferior-posterio aspect of 
scrotum with eschar; vesciular rash noted over superior chest 
B/L and B/L posterior upper shoulder. No eschar or vesicles 
noted over chest/back rash, jsut erythematous vesicles.  

ON DISCHARGE: 
Vitals:  98.7| 122-126/80s| 63-80| 18| 100% on RA 
General  AOx3, NAD 
HEENT:  EOMI, MMM
Lymph:  No LAD of cervical, supraclavicular, or groin 
CV:  RRR, no murmurs, rubs, or gallops
Lungs:  CTAB, no wheezes or cracles
Abdomen:  Soft, non-tender to palpation, non-distended, BS x 4
GU:  Dorsal penis shaft with small non-erythematous papule 
___ spot). Inferior/posterior scrotum with healing 
ulcerations with overlying ___ crusting. 
Ext:  Non edematous, no cyanosis or clubbing
Neuro:  CN ___ intact, strength ___ in bilateral upper and 
lower extremities. Sensation intact to light touch in bilateral 
upper and lower extremiteis. No rahses on extremities 
Skin:  Erythematous papules scattered across anterior chest 
(sternal and bilateral upper chest)
 
Pertinent Results:
ON ADMISSION: 

___ 06:22PM BLOOD WBC-12.7*# RBC-4.96 Hgb-14.4 Hct-43.1 
MCV-87 MCH-29.0 MCHC-33.4 RDW-14.2 RDWSD-44.5 Plt ___
___ 06:22PM BLOOD Neuts-79.1* Lymphs-14.9* Monos-5.0 
Eos-0.1* Baso-0.2 Im ___ AbsNeut-10.04*# AbsLymp-1.90 
AbsMono-0.64 AbsEos-0.01* AbsBaso-0.03
___ 06:22PM BLOOD Glucose-128* UreaN-28* Creat-1.6* Na-140 
K-4.3 Cl-97 HCO3-31 AnGap-16
___ 08:00AM BLOOD ALT-29 AST-17 LD(LDH)-193 AlkPhos-67 
TotBili-0.8
___ 06:27PM BLOOD Lactate-1.9

IMAGING: none
MICROBIO: none

ON DISCHARGE: 

___ 08:00AM BLOOD WBC-10.4* RBC-4.69 Hgb-13.6* Hct-42.2 
MCV-90 MCH-29.0 MCHC-32.2 RDW-14.6 RDWSD-47.4* Plt ___RIEF HOSPITAL COURSE:
___ man with h/o IgA nephropathy currently on high dose 
steroids with recent diagnosis of genital herpes who presents 
with new rash on chest concerning for disseminated herpes. 
Started initially on IV acyclovir with hydration but this was 
soon discontinued as further examination revealed that lesions 
on chest consistent with steroid-induced acne. Scrotal rash 
consistent with HSV. Dermatology consulted and agreed with this 
assessment. 

Transitional issues:
- patient to complete 7 day total course of acyclovir as 
prescribed by PCP
 
___ on ___:
The Preadmission Medication list is accurate and complete.
1. Allopurinol ___ mg PO DAILY 
2. Lisinopril 5 mg PO DAILY 
3. Omeprazole 20 mg PO DAILY 
4. PredniSONE 60 mg PO DAILY 
5. Acyclovir 400 mg PO Q8H 

 
Discharge Medications:
1. Allopurinol ___ mg PO DAILY 
2. Lisinopril 5 mg PO DAILY 
3. Omeprazole 20 mg PO DAILY 
4. PredniSONE 60 mg PO DAILY 
5. Acyclovir 400 mg PO Q8H Duration: 7 Days 
please finish course as previously prescribed 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary diagnosis:
1. Genital HSV

Secondary diagnosis:
1. IgA nephropathy

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,

It was a pleasure caring for you during your stay at ___ 
___. You were admitted out of concern that 
your rash was spreading to many parts of your body. We had the 
dermatologists come evaluate your rash and they believe the rash 
on your chest is likely acne caused by your prednisone, but that 
your rash in your genitals is likely herpes. Please complete the 
medication given to you by your primary care doctor. If your 
rash does not improve, please follow-up with your primary care 
doctor. 

Take care,
Your ___ Team
 
Followup Instructions:
___